US05698584
Step 1: 5-Hydroxy-2-methoxypyridine
To a solution of the 5-acetoxy-2-methoxypyridine(600 mg, 3.59 mmol) in MeOH(10 mL) was added 1M aq. NaOH(10 mL, 10 mmol). After stirring at r.t. for 30 min, volatile solvent was removed in vacuo, acidified with HOAc and extracted with CHCl3(3×). The combined CHCl3 extracts were washed with H2O, dried(anhydrous MgSO4) and evaporated to give the title compoud as a brown oil(240 mg, solidified on standing).

reactant | 5-acetoxy-2-methoxypyridine | 3.59 mmol, 600 mg | C(C)(=O)OC=1C=CC(=NC1)OC | C8H9NO3
reactant | NaOH | 10 mmol, 1M, 10 mL | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 5-Hydroxy-2-methoxypyridine | OC=1C=CC(=NC1)OC | C6H7NO2
